US04791374
Mannityl hexasulfate ammonium salt is prepared from mannitol and sulfamic acid in dimethylformamide. A mixture of 5 grams of pyrrole and 1 gram of this ammonium salt is dissolved in 200 ml. of water. Utilizing the apparatus described in Example 7, the polymerization is carried out at a current of about 0.4 amperes over a period of 20 minutes. The product is a black electronically conducting film which is shiny on the substrate side and rough on the solution side.

reactant | mannitol | C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
reactant | sulfamic acid | S(N)(O)(=O)=O | H3NO3S
reactant | pyrrole | 5 grams | N1C=CC=C1 | C4H5N
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | hexasulfate ammonium salt | [NH4+].S(=O)(=O)([O-])[O-].S(=O)(=O)([O-])[O-].S(=O)(=O)([O-])[O-].S(=O)(=O)([O-])[O-].S(=O)(=O)([O-])[O-].S(=O)(=O)([O-])[O-].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+] | InChI=1S/12H3N.6H2O4S/c;;;;;;;;;;;;6*1-5(2,3)4/h12*1H3;6*(H2,1,2,3,4)
